US05274171
p-Anisidine (12.3 g) was dissolved in 55 ml acetic acid and 15 ml water and cooled to 10° C. 98% Sulfuric acid (15 g) was added slowly with agitation while cooling the reaction vessel, a 500 ml three necked round bottom flask equipped with stirrer, thermometer, dropping funnel and cooling bath. Sodium nitrite (6.9 g dissolved in 20 ml water) was then added at 0°-2° C. over one hour while stirring. Excess nitrous acid was then neutralized by the addition of 0.05 g t-butylamine. After 10 minutes, palladium (O) dibenzylidene acetone (Pd(dba)2, 0.15 g) was added followed by methyl acrylate (12.9 g) and butylated hydroxytoluene (0.03 g). The cooling bath was then removed and the temperature allowed to slowly reach ambient conditions (25° C.). After 22 hours of stirring, the acid was neutralized with excess 10% sodium hydroxide solution (aqueous) and the mixture allowed to separate. The aqueous layer was separated and extracted twice with 20 ml portions of ethyl ether. The ether layers were combined with the organic phase, concentrated on a rotary evaporator to remove the ether and distilled to give 19.0 g of methyl p-methoxycinnamate (99% yield, purity 95% by GC).

reactant | p-Anisidine | 12.3 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | Sulfuric acid | 15 g | S(O)(O)(=O)=O | H2O4S
reactant | Sodium nitrite | 20 ml, 6.9 g | N(=O)[O-].[Na+]
reactant | nitrous acid | N(=O)O | HNO2
reactant | methyl acrylate | 12.9 g | C(C=C)(=O)OC | C4H6O2
solvent | acetic acid | 55 ml | C(C)(=O)O | C2H4O2
catalyst | palladium | 0.15 g | [Pd] | Pd
catalyst | t-butylamine | 0.05 g | C(C)(C)(C)N | C4H11N
solvent | water | 15 ml | O | H2O
product | methyl p-methoxycinnamate | 19.0 g, 99% yield | COC1=CC=C(C=CC(=O)OC)C=C1 | C11H12O3
